US05387714
In a stream of nitrogen gas, 2-chlorodiphenyl ether (10.23 g, 0.05 mol) in dry THF (20 ml) was dropwise added to a mixture of magnesium (1.34 g, 0.055 mol) and ethyl bromide (0.19 ml) in dry THF (15 ml) under reflux over 30 minutes. After further reflux for 6 hours, the reaction mixture was diluted with dry THF (15 ml) and cooled below 20° C. This mixture was dropwise added to oxalyl chloride (7.62 g, 0.06 mol) in dry THF (100 ml) at -10° to 0° C. over 15 minutes, followed by stirring at -10° to 0° C., and methylamine gas was introduced into the mixture, followed by stirring at room temperature for 15 minutes. After completion of the reaction, 1N HCl (100 ml) was added to the reaction mixture which was then extracted with toluene (300 ml). The extract was washed with water and brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was recrystallized from ethyl acetate/hexane to give N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide (8.07 g) as colorless crystals. The mother liquor was purified by silica gel chromatography (ethyl acetate/hexane) to give the objective compound (1.42 g). The total yield was 9.49 g (74%).

reactant | 2-chlorodiphenyl ether | 0.05 mol, 10.23 g | C1=CC=C(C=C1)OC2=CC=CC=C2Cl | C12H9ClO
reactant | magnesium | 0.055 mol, 1.34 g | [Mg] | Mg
reactant | ethyl bromide | 0.19 ml | C(C)Br | C2H5Br
reactant | oxalyl chloride | 0.06 mol, 7.62 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | methylamine | CN | CH5N
reactant | HCl | 1N, 100 ml | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-methyl-2-(2-phenoxyphenyl)-2-oxoacetamide | 8.07 g | CNC(C(=O)C1=C(C=CC=C1)OC1=CC=CC=C1)=O | C15H13NO3
